US07981903B2
2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide
A solution of 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (100 mg, 0.153 mmol) in dioxane (13 mL) and a 1M aqueous KOH solution (0.764 mL, 0.764 mmol) was heated at 90° C. for 6 h. The resulting mixture was allowed to cool to rt, diluted with EtOAc (100 mL), washed with a saturated NaHCO3 solution (50 mL) and a saturated NaCl solution (50 mL). The organic layer was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain as a yellow solid (56 mg, 74%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.40 (s, 6H), 3.07-3.20 (m, 2H), 3.50 (br s, 2H), 3.76 (s, 3H), 4.13 (d, J=8.24 Hz, 2H), 6.19-6.31 (m, 1H), 6.87-7.05 (m, 3H), 7.31 (t, J=7.87 Hz, 1H), 7.61 (s, 1H), 7.71 (br s, 1H), 7.78 (d, J=7.51 Hz, 1H), 8.26 (br s, 1H), 8.59 (s, 1H), 8.94 (d, J=8.61 Hz, 1H), 11.23 (s, 1H), 12.04 (s, 1H); ESIMS (M+H)+=501.25.

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 0.153 mmol, 100 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C=CC=C2)OC)C | C33H34N8O5S
reactant | KOH | 0.764 mmol, 1M, 0.764 mL | [OH-].[K+]
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 56 mg, 74% | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)N)C=CC=C2)OC)C | C26H28N8O3
